US06358949B1
A solution of 3.0 g (13.8 mmole) of (benzimidazol-2-ylmethyl) (3-methylbutyl)amine in 150 mL of 1:1:1 ethyl acetate, acetone, water is treated with 3.66 g (34.5 mmole) Na2CO3 and a solution of 3.22 g (13.7 mmole) of 2-chloro-3,4-dimethoxybenzoyl chloride in 50 mL of acetone at 0° C. The resulting mixture is allowed to warm to room temperature for 1 hour. The reaction solution is diluted with 300 mL of ethyl acetate and then washed with 2×60 mL water, 1×60 mL sat. NaHCO3, and 1×60 mL of brine. The resulting organic layer is dried over anhydrous Na2SO4 and the solvent removed in vacuo. The residue is treated with 150 mL of methanol and 1.1 g of NaOH at reflux for 2 hours and then allow to cool to room temperature for 2 hours. The resulting solution is evaporated under reduced pressure and partioned between ethyl acetate 200 mL and water 100 mL. The ethyl acetate extracts are dried over anhydrous Na2SO4 and the solvent removed in vacuo. The resulting residue is flash chromatographed (1:1 ethyl acetate/hexanes) to afford 2.82 g (49%) of N-(benzimidazol-2-ylmethyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide.

reactant | (benzimidazol-2-ylmethyl) (3-methylbutyl)amine | 13.8 mmole, 3.0 g | N1=C(NC2=C1C=CC=C2)CNCCC(C)C | C13H19N3
reactant | Na2CO3 | 34.5 mmole, 3.66 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-3,4-dimethoxybenzoyl chloride | 13.7 mmole, 3.22 g | ClC1=C(C(=O)Cl)C=CC(=C1OC)OC | C9H8Cl2O3
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-(benzimidazol-2-ylmethyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide | 2.82 g, 49% | N1=C(NC2=C1C=CC=C2)CN(C(=O)C2=C(C(=C(C=C2)OC)OC)Cl)CCC(C)C | C22H26ClN3O3
